US05952382
Preparation of propyl 4-[7-(1-adamantyl)-6-methoxyethoxymethoxy-2-naphthyl]benzoate
3 g (6.1 mmol) of 4-[7-(1-adamantyl)-6-methoxyethoxymethoxy-2-naphthyl]benzoic acid and 100 ml of DMF were introduced into a three-necked flask under a stream of nitrogen. 200 mg (6.7 mmol) of sodium hydride (80% in oil) were added portionwise and stirring was carried out until gas evolution had ceased. 500 μl (6.1 mmol) of iodopropane were then added and the reaction mixture was stirred for one hour. The reaction mixture was poured into water and extracted with ethyl acetate and the organic phase was separated by settling, dried over magnesium sulfate and evaporated.

reactant | 4-[7-(1-adamantyl)-6-methoxyethoxymethoxy-2-naphthyl]benzoic acid | 6.1 mmol, 3 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(C(=O)O)C=C2)OCOCCOC | C31H34O5
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | 6.7 mmol, 200 mg | [H-].[Na+]
reactant | iodopropane | 6.1 mmol, 500 μl | ICCC | C3H7I
solvent | water | O | H2O
product | propyl 4-[7-(1-adamantyl)-6-methoxyethoxymethoxy-2-naphthyl]benzoate | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)C2=CC=C(C(=O)OCCC)C=C2)OCOCCOC | C34H40O5
